US07691877B2
2,6-Dibromo-4-chloro-5-nitro-pyridine
2,6-Dibromo-4-amino-5-nitro-pyridine (3 g) was taken up in concentrated hydrochloric acid (20 mL) and cooled to 0° C. Sodium nitrite (3.5 g) was added and the reaction mixture was allowed to stir at 0° C. for 1 h. The ice bath was removed and the reaction allowed to warm to room temperature over 3 h, and was then quenched by the addition of ethyl acetate (50 mL) and water (100 mL). The organic layer was separated, dried over MgSO4 and filtered and evaporated in vacuo to a pale yellow oil, which was purified by column chromatography using 35:1 pentane:EtOAc as eluant to give the title compound (2.2 g) as a white solid.

reactant | 2,6-Dibromo-4-amino-5-nitro-pyridine | 3 g | BrC1=NC(=C(C(=C1)N)[N+](=O)[O-])Br | C5H3Br2N3O2
reactant | Sodium nitrite | 3.5 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 20 mL | Cl | ClH
product | 2,6-Dibromo-4-chloro-5-nitro-pyridine | 2.2 g | BrC1=NC(=C(C(=C1)Cl)[N+](=O)[O-])Br | C5HBr2ClN2O2
